US07485661B2
Preparation of Diethyl 3-[(4-fluorobenzoyl)amino]-1H-thieno[3,2-c]pyrazole-1,5-dicarboxylate (9)
A solution of 4-fluorobenzoyl chloride (0.106 mol, 12.7 mL) in 50 ml of anhydrous dichlorometane was added dropwise to an ice-cold suspension of 1-ethyl 5-methyl 3-amino-thieno[3,2-c]pyrazole-1,5-dicarboxylate (0.071 mol, 19.1 g) in 100 mL of anhydrous dichlorometane and 114.0 mL of pyridine (1.412 mol). The resulting suspension was stirred at 5° C., for 5 hours. The crude was concentrated under vacuum and diluted with dichloromethane. The organic layer was washed with hydrochloric acid 1. N, sodium hydroxide 1 N, brine and dried over Na2SO4. The filtrate was evaporated to dryness to give a yellow solid, which was purified by flash chromatography, over silica gel, using hexane/ethyl acetate (4:1) as eluent, to afford the title compound as a pale yellow solid (19.6 g, 68%).

reactant | 4-fluorobenzoyl chloride | 0.106 mol, 12.7 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 1-ethyl 5-methyl 3-amino-thieno[3,2-c]pyrazole-1,5-dicarboxylate | 0.071 mol, 19.1 g | NC=1C2=C(N(N1)C(=O)OCC)C=C(S2)C(=O)OC | C10H11N3O4S
reactant | pyridine | 1.412 mol, 114.0 mL | N1=CC=CC=C1 | C5H5N
solvent | dichlorometane | 50 ml | ClCCl | CH2Cl2
solvent | dichlorometane | 100 mL | ClCCl | CH2Cl2
product | Diethyl 3-[(4-fluorobenzoyl)amino]-1H-thieno[3,2-c]pyrazole-1,5-dicarboxylate | 19.6 g, 68% | FC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)C=C(S3)C(=O)OCC)C=C1 | C18H16FN3O5S
